US06150352
Step 1D 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester
To a solution of 2-{2-[6-nitro-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester (1.11 g in 30 mL ethanol) was added 2 mL tin(II)cloride dihydrate and the mixture heated to 70° C. on an oil bath. After 2 hours, the reaction was cooled to room temperature and quenched by the addition of 300 mL ice-water. The acidity of the resulting solution was adjusted to pH 8 by the addition of saturated aqueous sodium bicarbonate and the mixture extracted (2×) with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification of the crude oil by flash chromatography on silica gel (methylene chloride:ethyl acetate, 95:5) gave the title compound (0.50 g).

reactant | tin(II)cloride dihydrate | 2 mL | O.O.[Sn](Cl)Cl
reactant | 2-{2-[6-nitro-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 30 mL, 1.11 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C | C32H32ClN3O6
product | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 0.50 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C32H34ClN3O4
